US07951794B2
A solution of 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-ethanone (28 mg, 0.115 mmol) and 3,5-dimethyl-4-hydroxybenzaldehyde (26 mg, 0.172 mmol) in ethanol (1.5 mL) and 5 N HCl in isopropanol (0.3 mL) is stirred at rt for 18 h. The solution is diluted with water and extracted with EA. The organic extract is evaporated, dissolved in methanol (3 mL) and THF (3 mL) and treated with Pd/C (30 mg, 10% Pd). The slurry is stirred under 1.5 bar of H2 for 18 h. The mixture is filtered, the solvent of the filtrate is removed in vacuo and the crude product is purified by prep. HPLC to give 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one (46 mg) as a colourless oil; LC-MS: tR=1.13 min, [M+1]+=379.22.

reactant | 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-ethanone | 0.115 mmol, 28 mg | C(C)C1=C(C=C(S1)C(C)=O)C1=CC=C(C=C1)C | C15H16OS
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 0.172 mmol, 26 mg | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 0.3 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one | 46 mg | C(C)C1=C(C=C(S1)C(CCC1=CC(=C(C(=C1)C)O)C)=O)C1=CC=C(C=C1)C | C24H26O2S
